US03993656
Preparation of 3-nitro-5,7-dimethyl-1,8-naphthyridin-2(1H)-one
A mixture of 2-amino-4,6-dimethylnicotinaldehyde (2.40 g., 16 mmole), ethyl nitroacetate (5.12 g., 32 mmole), piperidine (336 mg., 4 mmole) and ethanol (4 ml.) is heated under reflux with stirring for an hour. The mixture then is cooled, treated with petroleum ether, the solid removed by filtration and recrystallized from methanol yielding 1.55 g. (44%) of product, m.p. 270°-272° C. (dec.). Following recrystallization from the same solvent the product melts at 272°- 274° C. (dec.).

reactant | 2-amino-4,6-dimethylnicotinaldehyde | 16 mmole, 2.40 g | NC1=C(C=O)C(=CC(=N1)C)C | C8H10N2O
reactant | ethyl nitroacetate | 32 mmole, 5.12 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | piperidine | 4 mmole, 336 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-nitro-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | [N+](=O)([O-])C=1C(NC2=NC(=CC(=C2C1)C)C)=O | C10H9N3O3
